US09359381B2
Step 8: 10-(5-Chlorofuran-2-yl)-5-(3-fluorophenyl)-8-(hydroxymethyl)-1,3-dimethyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione
Trifluoroacetic acid (161 μl, 2.094 mmol) was added to a solution of bismuth triflate (41.2 mg, 0.063 mmol), 5-chlorofuran-2-carbaldehyde (30.1 mg, 0.230 mmol) and 6-(3-((tert-butyldimethylsilyl)oxy)-2-mercaptopropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (100 mg, 0.209 mmol) in toluene (2094 μL). The mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with DCM (10 mL) and 1M NaOH(aq) (10 mL). The phases were separated and the aqueous phase was extracted with DCM (3×10 mL). The combined organic extracts were dried over magnesium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-50% EtOAc/hexane, afforded the title compound as a mixture of diastereomers.

reactant | Trifluoroacetic acid | 2.094 mmol, 161 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | bismuth triflate | 0.063 mmol, 41.2 mg | [O-]S(=O)(=O)C(F)(F)F.[Bi+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | 5-chlorofuran-2-carbaldehyde | 0.230 mmol, 30.1 mg | ClC1=CC=C(O1)C=O | C5H3ClO2
reactant | 6-(3-((tert-butyldimethylsilyl)oxy)-2-mercaptopropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.209 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OCC(CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C)S | C23H32FN3O3SSi
solvent | toluene | 2094 μL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1M, 10 mL | [OH-].[Na+]
product | 10-(5-Chlorofuran-2-yl)-5-(3-fluorophenyl)-8-(hydroxymethyl)-1,3-dimethyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione | ClC1=CC=C(O1)C1SC(CN2C1=C1C(=C2C2=CC(=CC=C2)F)C(N(C(N1C)=O)C)=O)CO | C22H19ClFN3O4S
